US04371604
(A) 2-Acetyl-5-phenylhydroquinone
A suspension of 32.4 g of phenylhydroquinone in 30 ml of acetic acid was made. It was heated to 80° C. and boron trifluoride gas was bubbled through. After a reaction period of 4 h the reaction mixture was poured into water. The precipitation formed was suction-filtered and stirred in water whereto some sodium carbonate was added up to pH 8. The precipitate was suction-filtered again, washed with water, dried and recrystallized from toluene. Yield: 23 g of purified product. Melting point: 169° C.

reactant | phenylhydroquinone | 32.4 g | C1(=CC=CC=C1)C1=C(O)C=CC(=C1)O | C12H10O2
reactant | water | O | H2O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-Acetyl-5-phenylhydroquinone | C(C)(=O)C1=C(O)C=C(C(=C1)O)C1=CC=CC=C1 | C14H12O3
